US04000302
Reaction of 2-[(2-aminoethyl)thiomethyl]thiazole with S-methyl-N-nitroisothiourea by the procedure of Example 70 gives N-nitro-N'-[2-(2-thiazolylmethylthio)ethyl]guanidine.

reactant | 2-[(2-aminoethyl)thiomethyl]thiazole | NCCSCC=1SC=CN1 | C6H10N2S2
reactant | S-methyl-N-nitroisothiourea | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
product | N-nitro-N'-[2-(2-thiazolylmethylthio)ethyl]guanidine | [N+](=O)([O-])NC(=N)NCCSCC=1SC=CN1 | C7H11N5O2S2
